US09210932B2
Step A: Preparation of 2′,3′-dichloro-[1,1′-biphenyl]-3-acetic acid ethyl ester
A mixture of 3-iodobenzeneacetic acid ethyl ester (0.87 g, 3 mmol, prepared by the method described in J. Chem. Soc. 1963, 5437), 2,3-dichlorophenylboronic acid (0.85 g, 4.5 mmol), bis(triphenylphosphine)palladium dichloride (0.10 g, 0.15 mmol) and 2 N aqueous sodium bicarbonate solution (3 mL) in p-dioxane (6 mL) was heated at 160° C. in a microwave reactor for 5 min. The reaction mixture was cooled, poured into water, and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel eluted with ethyl acetate in hexanes to provide the title product (0.48 g).

reactant | 3-iodobenzeneacetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)I)=O | C10H11IO2
reactant | 2,3-dichlorophenylboronic acid | 4.5 mmol, 0.85 g | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
reactant | sodium bicarbonate | 2 N, 3 mL | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | p-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium dichloride | 0.15 mmol, 0.10 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2′,3′-dichloro-[1,1′-biphenyl]-3-acetic acid ethyl ester | 0.48 g | C(C)OC(CC=1C=C(C=CC1)C1=C(C(=CC=C1)Cl)Cl)=O | C16H14Cl2O2
